US06346534B1
To a refluxing solution (150 mL) of ethanol and water (7/3), NaOH (2.2 g, 55 mmol) and malononitrile (2.64 g, 40 mmol) were added. Then 4′-methoxy-2-aminopropiophenone hydrochloride (5.9 g, 27.2 mmol) was added in several portions. After the solution was refluxed for 30 minutes., additional malonitrile (1.3 g, 20 mmol) and NaOH (1.1 g, 27.5 mmol) were added. It was refluxed for additional 30 minutes and then poured into water (100 mL) which resulted in a precipitation. It was then filtered and washed with water until no color was washed out. The solid was then dried under vacuum at 50° C. overnight to give 2-amino-3-cyano-4-(4-methoxyphenyl)-5-methylpyrrole, (3.9 g, 63%). MS: 228 (MH+).

reactant | NaOH | 55 mmol, 2.2 g | [OH-].[Na+]
reactant | malononitrile | 40 mmol, 2.64 g | C(CC#N)#N | C3H2N2
reactant | 4′-methoxy-2-aminopropiophenone hydrochloride | 27.2 mmol, 5.9 g | Cl.COC1=CC=C(C=C1)C(C(C)N)=O
reactant | malonitrile | 20 mmol, 1.3 g | C(C(O)CC#N)#N | C4H4N2O
reactant | NaOH | 27.5 mmol, 1.1 g | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-amino-3-cyano-4-(4-methoxyphenyl)-5-methylpyrrole | 3.9 g, 63% | NC=1NC(=C(C1C#N)C1=CC=C(C=C1)OC)C | C13H13N3O
